US06908921B2
To a solution of 4-(2-hydroxyethyl)benzonitrile (10.0 g, 67.94 mmol) in CH2Cl2 (175 mL) at 0° C. was added Et3N (11.36 mL, 8.25 mmol) and MsCl (6.31 mL, 81.53 mmol). After stirring at 0° C. for 3.5 hours, the reaction was poured into water (100 ml) and separated. Organic layer was dried over Na2SO4, filtered and concentrated in vacuo. Crude residue was dissolved in DMF (100 mL) and NaN3 (9.15 g, 140.72 mmol) and water (5 mL) were added. The resulting solution was heated to 125° C. After overnight stirring at 125° C., the crude reaction mixture was cooled, diluted with EtOAc (200 mL) and poured into water (150 mL). Organic layer was washed with water (5×150 mL), dried over sodium sulfate, filtered, and concentrated to give 4-(2-azidoethyl)benzonitrile which was used without purification.

reactant | 4-(2-hydroxyethyl)benzonitrile | 67.94 mmol, 10.0 g | OCCC1=CC=C(C#N)C=C1 | C9H9NO
reactant | Et3N | 8.25 mmol, 11.36 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 81.53 mmol, 6.31 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 140.72 mmol, 9.15 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 175 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 150 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-(2-azidoethyl)benzonitrile | N(=[N+]=[N-])CCC1=CC=C(C#N)C=C1 | C9H8N4
